US08497265B2
Iodine (17.6 g, 69.2 mmol) was added dropwise as a solution in THF (40 mL) over 1 hour to an ice cold solution of benzyl 4-hydroxypiperidine-1-carboxylate (15.5 g, 65.9 mmol), imidazole (4.71 g, 69.2 mmol), and triphenylphosphine (18.2 g, 69.2 mmol) in THF (40 mL). This resulting red solution was stirred overnight with warming to room temperature, then cooled back to 0° C. before being quenched with 10% aqueous sodium sulfite. The resulting biphasic mixture was separated and the aqueous layer was extracted with ethyl acetate (1×). The combined extracts were dried over magnesium sulfate (MgSO4), filtered, and concentrated in vacuo to give an oil that was purified by silica gel chromatography (10% EtOAc/hexane) to give benzyl 4-iodopiperidine-1-carboxylate as a colorless oil (9.50 g, 42% yield).

reactant | Iodine | 69.2 mmol, 17.6 g | II | I2
reactant | benzyl 4-hydroxypiperidine-1-carboxylate | 65.9 mmol, 15.5 g | OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H17NO3
reactant | imidazole | 69.2 mmol, 4.71 g | N1C=NC=C1 | C3H4N2
reactant | triphenylphosphine | 69.2 mmol, 18.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | benzyl 4-iodopiperidine-1-carboxylate | 9.50 g, 42% yield | IC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H16INO2
